US07947689B2
(3-Chloro-7-methyl-4,7-dihydro-5H-furo[2,3-c]pyridin-6-yl)-(6-chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-methanone
In close analogy to the procedure described in Example 1, 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 3-chloro-7-methyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine to provide the title compound.

reactant | 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | ClC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4ClN3O2
reactant | 3-chloro-7-methyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | ClC1=COC=2C(NCCC21)C | C8H10ClNO
product | (3-Chloro-7-methyl-4,7-dihydro-5H-furo[2,3-c]pyridin-6-yl)-(6-chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-methanone | ClC1=COC=2C(N(CCC21)C(=O)C2=NN1C(N=CC(=C1)Cl)=C2)C | C15H12Cl2N4O2
